US04933355
2-Benzylaminothiazole-4-carbaldehyde
The reaction described in Preparation 44 was repeated, but using 1.21 g of 2-benzylaminothiazol-4-ylmethanol, 2.6 g of pyridine sulfur trioxide complex, 3 ml of triethylamine and 30 ml of dimethyl sulfoxlde, giving the title compound as pale brown crystals.

reactant | 2-benzylaminothiazol-4-ylmethanol | 1.21 g | C(C1=CC=CC=C1)NC=1SC=C(N1)CO | C11H12N2OS
solvent | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
product | 2-Benzylaminothiazole-4-carbaldehyde | C(C1=CC=CC=C1)NC=1SC=C(N1)C=O | C11H10N2OS
